US04742057
To a mixture of 4-[4-(3-indolyl)piperidinomethyl]-2-aminothiazole (3.0 g), triethylamine (5.4 ml) and N,N-dimethylformamide (30 ml) was added dropwise a solution of cyclopropylcarbonyl chloride (2.18 ml) in methylene chloride (2.5 ml) over a period of 30 minutes at 0° C. in a stream of nitrogen gas with stirring. After the reaction was finished, the reaction mixture was filtered and the filtrate was concentrated. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1 V/V) to give 4-[4-(3-indolyl)piperidinomethyl]-2-cyclopropylcarbonylaminothiazole (2.9 g).

reactant | 4-[4-(3-indolyl)piperidinomethyl]-2-aminothiazole | 3.0 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)N | C17H20N4S
reactant | triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | cyclopropylcarbonyl chloride | 2.18 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(3-indolyl)piperidinomethyl]-2-cyclopropylcarbonylaminothiazole | 2.9 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(=O)C1CC1 | C21H24N4OS
